Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel like I'm losing touch with reality."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old single, adopted, Asian woman, originally 
from ___, currently full time student at ___ who 
self-presented to the ED endorsing three weeks of multiple 
depressive symptoms and suicidal ideation with plan to overdose 
on alcohol and prescription medication. She states she has been 
feeling anxious and somewhat depressed ever since starting 
school at ___ three months ago (was previously in college in 
___. Over the past several weeks, she describes a 
"confidence crisis" and severe anxiety with intermittent panic 
attacks which were preventing her from concentrating in her 
classes and completing her assignments. She began seeing an NP 
at ___ three weeks ago, who initiated treatment 
with Lexapro and PRN Ativan. Patient's
clinician advised her to discontinue Lexapro last week, in the 
setting of worsening depression.
.
In recent weeks, patient states that she has felt worthless, 
hopeless, guilty, and dreadful of the future. She states that 
she has been having escalating intrusive thoughts of death. 
"It's like everywhere I look and everyone I look at, all I see 
is death." She states she thinks about committing suicide daily 
and has thought of a plan to obtain alcohol from a friend and 
overdose on this with a medication- "I would look up one that 
interacts with it and could kill me". She states the only reason 
she has not yet killed herself is because she is worried about 
what might happen to her after she dies. "What if I wake up in a 
worse place?" She states that she has been sleeping much more 
than usual, only waking up for ___ hours at a time during the 
day, and has been intermittently attending classes. When she 
does attend lectures, she is unable to concentrate. "I used to 
have a lot of passion for what I was doing, but now it all seems 
meaningless." She has also been finding in increasingly 
difficult to perform her ADLs, although she continues to 
eat/drink, shower, and otherwise care for herself at the moment.
.
Patient reports that she has experienced depressed mood in the 
past, and once saw a counselor when she was in high school. 
However, her symptoms have never been this bad before. She had 
never been on any psychiatric medications prior to this and she 
has never had any other kind of mental health treatment. She
states that her parents are currently in ___ and have rented 
an apartment here to visit with her on ___, but she 
chose to present to the ED instead of seeing them. Patient feels 
that her parents and her friends at school "don't understand how 
severe this is" and she is reluctant to talk to them about her 
mental health.
.
Per collateral from mother, patient struggling at ___ for several 
months due to academic, interpersonal challenges. Daughter has 
been calling them several times per day. They want to help but 
are unsure of how to do so.
. 
In the ED, when patient was informed that an inpatient 
hospitalization would be pursued, she became very upset, noting 
that she needed to continue her schoolwork, did not think that 
an admission would be useful. However, she did not require 
physical/chemical restraints.
.
On admission interview, patient very upset and dismissive of the 
concerns that initially brought her into the hospital. She 
states that she goes though "ups and downs" and that this "isn't 
even the worst its gotten," though she is unwilling to elaborate 
on this. She states that she "isn't going to get better here," 
and calls this facility a ___ hospital." When this 
provider
attempted to address concerns that she was having currently, she 
repeatedly return to her demand that she "leave today" and said 
that there was nothing I could do to improve her time on the 
unit ("nothing; My impression has been ruined.") She denied any 
current symptoms answering all ROS questions in the negative and 
instead stating that her current hospitalization was the only 
cause of her concern at this time.
 
Past Medical History:
Past Psychiatric History: 
Hospitalizations: Denies.
Current treaters and treatment: ___, NP at ___. Has been seeing patient for ~3 weeks. Once saw a
counselor in high school, but otherwise has not had any other
mental health providers.
Medication and ECT trials: Lexapro and lorazepam.
Self-injury: Endorses cutting for a brief period in middle
school. Denies other incidents of self injury. Denies suicide
attempts.
Harm to others: Denies.
Access to weapons: Denies.
.
Past Medical History: denies 

 
Social History:
Substance use history: Denies history of alcohol, tobacco, 
marijuana, and illicit drug use.
. 
Personal and Social History: ___
Family History:
Patient is adopted 
 
Physical Exam:
Patient initially refused physical and neurologic examination 
("if it's not
going to get me out of here I'm not going to do it") but was 
amenable to a limited exam the next day.
.
Gen: Asian woman, appears stated age, in no acute distress
CV: RRR, no M/R/G
Lungs: CTAB
Abd: Tensed, non-tender, no masses
Legs: No edema present
.
Neurologic exam:
CN:
- PERRL
- EOMI
- Facial sensation intact bilaterally
- Smile symmetric, full-strength eye close
- Hearing intact bilaterally
- Palate symmetric
- Full ROM tongue, no fasciculations
- Trapezius full strength
Motor:
- Moves all extremities spontaneously
- No pronator drift
- Normal upper extremity tone
- 1+ patellar reflexes
Sensory:
- Intact to light touch bilaterally
Cerebellar:
- Normal gait, FTN intact
Motor:
- Moving all extremities, would not cooperate with a full motor 
exam
.
Mental status exam:
  *Appearance: Patient is a ___ year-old female who appears 
stated
age, hygiene and grooming is good, wearing hospital gown.
  Behavior: Aggressive, upset
  *Mood and Affect: "I'm just angry because I'm here"; reactive,
dysphoric, mood-congruent.
  *Thought process: Linear, logical, goal-oriented. No LOA.
Concrete with respect to answering questions about her concerns,
repeatedly returns to her admission and needing to leave
immediately. 
  *Thought Content: Denies SI. Remained of exam limited due to
concrete thought process and patient agitation.  
  *Judgment and Insight: Poor, poor.
    Cognition: Patient refused exam.
    *Speech: Increased rate and volume
    *Language: Fluent ___

 
Pertinent Results:
___ 11:14AM   GLUCOSE-89 UREA N-10 CREAT-0.7 SODIUM-142 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 11:14AM   estGFR-Using this
___ 11:14AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:14AM   NEUTS-62.3 ___ MONOS-6.9 EOS-0.7* 
BASOS-0.7 IM ___ AbsNeut-3.72 AbsLymp-1.74 AbsMono-0.41 
AbsEos-0.04 AbsBaso-0.04
___ 11:14AM   PLT COUNT-281
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  HOURS-RANDOM
___ 09:30PM URINE  UCG-NEGATIVE
___ 09:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:30PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 09:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD*
___ 09:30PM URINE  RBC-1 WBC-5 BACTERIA-FEW* YEAST-NONE 
EPI-5
 
Brief Hospital Course:
Ms. ___ is a ___ yo Asian female, adopted, single child, 
college student with a remote history of cutting but no known 
chronic psychiatric conditions, no prior episodes of suicidality 
or hospitalizations, who presented with three weeks of worsening 
depression and suicidality and a plan to overdose on alcohol and
prescription medication.
.
On admission, patient irritable, demanding discharge. She 
discussed many stressors over the last several months, namely 
moving to a new place, extreme self-imposed pressure to perform 
in school, ongoing feelings of failure despite "getting all 
A's," chronic feelings that she is "less intelligent" than her 
peers. She also endorsed interpersonal conflict at school (does 
not like roommate, requesting room change), disagreements with 
her parents (they are "nice" but she feels like they cannot 
"grapple with mental illness"). Patient also endorsed increased 
frequency of panic attacks in the last several weeks which she 
described as episodes of "doom." She noted regularly only 
sleeping ~5 hours, cycling patterns of appetite with 
accompanying weight gain/loss, irritable mood, concern that she 
"cannot get better" and will always be depressed, as well as 
near-constant rumination about her future.
She at one point wanted to be a ___ ___, but stated that 
she "does not know what I want," and struggled to name 
activities that she enjoys outside of school other than spending 
time with friends.
.
Presentation was though to be consistent with an adjustment 
disorder with depressive and anxious features, as patient 
identified several recent psychosocial stressors. Patient 
endorsed ruminating on these stressors near-constantly. 
Furthermore, a diagnosis of panic disorder should be considered 
as patient endorses "panic attacks" that include episodes of 
somatic symptoms and "doom." Lastly, given patient's 
impulsivity, history of difficult interpersonal dynamics, 
feelings of emptiness, cluster B traits should also be 
considered in the differential, although given her young age, I 
am reluctant to diagnose her with BPD at this time. Of note, 
nothing in her history to suggest a history of mania or 
psychosis. MDD is certainly on the differential, although she 
did not appear dysphoric or dysthymic during this 
hospitalization.
.
#. Legal/Safety: Patient admitted to Deaconess ___ on a ___, upon admission she refused to sign a CV. Of note, although 
she was notably irritable during this hospitalization, 
disparaging towards staff when her needs were not met 
immediately, she did maintain adequate behavioral control with 
no unsafe behaviors and did not require physical or chemical 
restraints. Safety was maintained throughout her hospitalization 
on 15 minute checks. Given her consistent denial of depression, 
SI, thoughts of self harm, with thought process that was linear, 
goal oriented, I did not believe she met criteria to file a 
section 7&8b and she was discharged with outpatient appointments 
upon expiration of her ___. 
. 
#. Depression: 
- As noted above, upon admission, patient reported resolution of 
her depression and consistently denied SI or thoughts of self 
harm during her hospitalization. She was reluctant to engage in 
treatment, refusing groups, and was notably disparaging of staff 
as noted above. Collateral from her mother was obtained, and 
mother reported longstanding history of poor frustration 
tolerance, irritability and issues with anger, interpersonal 
difficulties, and given this, etiology of presentation is more 
likely consistent with emerging BPD. 
- Although irritable and demanding at times, patient did not 
appear to be depressed on the unit with relatively euthymic 
affect. She was noted to be interactive and social with peers. 
She declined further inpatient hospitalization, stating she 
preferred to leave and follow up with her outpatient counselor. 
- After discussion of the risks and benefits, patient was 
initiated on Zoloft titrated to 25 mg po daily. She tolerated 
this well without complaints of side effects. She was also 
offered Ativan 0.5 mg prn, but did not require during her 
hospitalization. 
.
#. Medical: no acute medical issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed and anxious features

 
Discharge Condition:
VS: 97.9   PO 101/63   65   16    98%RA    
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, good eye contact, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody, goal directed
M: 'fine' 
A: slightly irritable, mood congruent 
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented 
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___